US07723330B2
Step G: Preparation of 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
To a 10 mL round bottom flask was added 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine (18.7 mg, 0.065 mmol; prepared according to the procedure of Example 43, Step E), 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (13.5 mg, 0.043 mmol) and the solids were dissolved in DMF (0.5 mL). Potassium carbonate (9.0 mg, 0.065 mmol) was added followed by a 1M solution of potassium t-butoxide in THF (0.065 mL, 0.065 mmol), and the mixture was stirred at 110° C. for 18 hours. The reaction mixture was cooled to room temperature and then partitioned between water (5 mL) and ethyl acetate (10 mL). The organic layer washed with water, brine, dried over Na2SO3 and concentrated to afford 24.3 mg of crude oil. The crude product was triturated with ether to afford the desired product (16 mg, 65%) as a tan solid. LRMS (APCI pos) m/e 563.3 (M+1).

reactant | 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine | COC1=CC=C(CN2N=C(C=3C2=NC=CC3Cl)C)C=C1 | C15H14ClN3O
reactant | 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.043 mmol, 13.5 mg | FC=1C=C(C=CC1O)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C17H14FN3O2
reactant | Potassium carbonate | 0.065 mmol, 9.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 0.065 mmol, 0.065 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 16 mg, 65% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C32H27FN6O3
